US05817653
a) (3,4-Methylenedioxybenzylidene)malonic acid dimethyl ester
A mixture of piperonal (15.0 g, 0.1 mol), dimethyl malonate (13.4 g, 0.1 mol), acetic acid (0.32 g, 5.3 mmol) and piperidine (0.43 g, 5.0 mmol) in benzene (200 ml) was stired and refluxed for 6 h with azeotropic distillation of H2O. The solvent was then removed at reduced pressure and the residue dissolved in ethyl acetate (100 ml). This solution was then extracted with 5% HCl (1X, 50 ml), then 5% Na2 CO3 (1X, 50 ml) followed by extraction with saturated aqueous NaCl (1x, 50 ml). The organic layer was dried (MgSO4), filtered and the solvent removed at reduced pressure to give a clear light oil (22.4 g) which solidified in part on standing. The oil was removed (by pipet) and the residual solid (18.3 g) recrystallized from ethanol (1X) to give 14.6 g (55%) of (a) as a crystalline white solid; mp 77°-74°.

reactant | piperonal | 0.1 mol, 15.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | dimethyl malonate | 0.1 mol, 13.4 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | H2O | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | acetic acid | 5.3 mmol, 0.32 g | C(C)(=O)O | C2H4O2
catalyst | piperidine | 5.0 mmol, 0.43 g | N1CCCCC1 | C5H11N
product | (3,4-Methylenedioxybenzylidene)malonic acid dimethyl ester | 22.4 g | COC(C(C(=O)OC)=CC1=CC2=C(C=C1)OCO2)=O | C13H12O6
